US05677305
First, 127 mg of 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione, 96 mg of 3-fluoro-4-hydroxypyridine, and 55 mg of powdered potassium hydroxide were added to 12 ml of dry dimethylsulfoxide. The mixture was stirred at 130° C. for 3 hours in a nitrogen atmosphere. Then, 50 ml of ice water was added to the reaction mixture, and the mixture was neutralized with 2N hydrochloric acid. The resultant precipitate was filtered and washed with water. The precipitate was dissolved in 3 ml of 1N sodium hydroxide. The solution was treated with activated carbon and filtered. The filtrate was neutralized with conc. hydrochloric acid. The precipitated crystals were filtered and dried to give 147 mg of 6-nitro-7-(3-fluoro-4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione | 127 mg | FC1=C(C=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H4FN3O4
reactant | 3-fluoro-4-hydroxypyridine | 96 mg | FC=1C=NC=CC1O | C5H4FNO
reactant | potassium hydroxide | 55 mg | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
product | 6-nitro-7-(3-fluoro-4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 147 mg | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1N1C=C(C(C=C1)=O)F)=O)=O | C13H7FN4O5
